### PR TITLE
feat(Eisenstein): add imaginary axis realness for Eisenstein series

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

- Add `E_even_imag_axis_real`: general theorem that `E_k(it)` is real for `t > 0` when `k` is even and `k ≥ 4`
- Add `E₄_imag_axis_real`, `E₆_imag_axis_real` as direct corollaries
- Add `E₂_imag_axis_real` with separate proof (different q-expansion structure)
- Add supporting lemmas: `neg_two_pi_I_pow_even_real`, `exp_imag_axis_arg`, `riemannZeta_even_im_eq_zero`

### CODE REVIEW

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 1]
```diff
@@ -799,3 +799,173 @@ theorem E₂_mul_E₄_sub_E₆ (z : ℍ) :
...
+
+/-- On imaginary axis z = I*t, the q-expansion exponent 2πi·n·z reduces to -(2πnt).
+This is useful for reusing the same algebraic simplification across `E₂`, `E₄`, `E₆`. -/
+lemma exp_imag_axis_arg (t : ℝ) (ht : 0 < t) (n : ℕ+) :
+    2 * Real.pi * Complex.I * (⟨Complex.I * t, by simp [ht]⟩ : ℍ) * n =
+    (-(2 * Real.pi * (n : ℝ) * t) : ℝ) := by
+  have hI : Complex.I ^ 2 = -1 := I_sq
+  push_cast
+  ring_nf
+  simp only [hI]
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Eisenstein.lean]:
```suggestion
  push_cast
  ring_nf
  simp only [I_sq]
```
Maybe?

**Review by seewoo5 — APPROVED** [review]

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: Thanks, that worked. Also golfed a bit more.

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 2]
```diff
@@ -799,3 +799,164 @@ theorem E₂_mul_E₄_sub_E₆ (z : ℍ) :
...
+lemma exp_imag_axis_arg (t : ℝ) (ht : 0 < t) (n : ℕ+) :
+    2 * Real.pi * Complex.I * (⟨Complex.I * t, by simp [ht]⟩ : ℍ) * n =
+    (-(2 * Real.pi * (n : ℝ) * t) : ℝ) := by
+  push_cast
+  ring_nf
+  simp only [I_sq]
+  ring
+
+/-- `ζ(2k)` is real for all `k ≥ 1`. -/
+lemma riemannZeta_even_im_eq_zero (k : ℕ) (hk : k ≠ 0) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Eisenstein.lean:837]: Not strongly related, but somehow it seems that "\zeta(s) is real for real s > 1" is missing in mathlib..

Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean:837]: Thanks for noticing this -- I've tried adding this as my first mathlib contribution: 
https://github.com/leanprover-community/mathlib4/pull/33936

(Not sure if we'd want to specialize that here, though, as it would require importing a lot for L-functions that we might not otherwise need.)

Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean:837]: It is now merged: https://github.com/leanprover-community/mathlib4/commit/59850a9701781fb375242f83885fb625fe281f6e

Should I eventually open a spherepacking PR to use it inline and remove our `riemannZeta_even_im_eq_zero`? It would simplify our codebase but add an `LSeries` dependency (though maybe this doesn't matter much with the new module system?). In any case I suppose we need to wait until we bump mathlib (or we could put the new proof in ForMathlib until then).

Comment (seewoo5) [reply SpherePacking/ModularForms/Eisenstein.lean:837]: If importing the corresponding file doesn't take significantly more time, then I think it is good to do. But yes, we need to wait until next bump.

Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean:837]: Sounds good -- tracked in #318.
